US05420115
9-(2-Deoxy-2-fluoro-β-D-ribofuranosyl)-6-methylamino-9H-purine
6-Methylaminopurine (Sigma Chemical Company, 0.8 g, 5.4 mmoles) and 1-(2-deoxy-2-fluoro-β-D-ribofuranosyl)uracil (0.39 g, 1.6 mmoles) which may be prepared according to J. F. Codington et al. (J. Org. Chem. 29:558, 1964) were suspended in 20 ml of 10 mM potassium phosphate buffer, pH 7.0, which contained 0.04% (w/v) potassium azide. Thymidine phosphorylase (2,400 I.U.) and purine nucleoside phosphorylase (3,900 I.U.) (T. A. Krenitsky et al., Biochemistry 20:3615, 1981 and U.S. Pat. No. 4,381,344) were added and the suspension stirred at 37° C. On day 6, the reaction was diluted to 100 ml with 5 mM potassium phosphate buffer, pH 7.0, which contained 0.04% (w/v) potassium azide. On day 17, the reaction was filtered. The filtrate was evaporated. The residue was suspended in methanol and then filtered. The filtrate was evaporated. The residue was dissolved in water and applied to a 2.5×7 cm column of anion exchange resin (Bio-Rad AG1X2-hydroxide form). The product was eluted with water. Product-containing fractions were combined and the solvent removed under vacuum. The residue was dissolved in water and filtered through a 0.2 μm-pore membrane filter. Lyophilization of the filtrate yielded title compound.

reactant | 6-Methylaminopurine | 5.4 mmoles, 0.8 g | CNC1=C2NC=NC2=NC=N1 | C6H7N5
reactant | 1-(2-deoxy-2-fluoro-β-D-ribofuranosyl)uracil | 1.6 mmoles, 0.39 g | F[C@H]1[C@@H](O[C@@H]([C@H]1O)CO)N1C(=O)NC(=O)C=C1 | C9H11FN2O5
reactant | potassium azide | [N-]=[N+]=[N-].[K+]
reactant | Thymidine | [C@@H]1(C[C@H](O)[C@@H](CO)O1)N1C(=O)NC(=O)C(C)=C1 | C10H14N2O5
solvent | potassium phosphate | 10 mM, 20 ml | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | potassium phosphate | 5 mM | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
product | 9-(2-Deoxy-2-fluoro-β-D-ribofuranosyl)-6-methylamino-9H-purine | F[C@H]1[C@@H](O[C@@H]([C@H]1O)CO)N1C2=NC=NC(=C2N=C1)NC | C11H14FN5O3
